US08133910B2
4-Benzyloxy-3,5-dimethyl-benzoic acid hydrazide is prepared in analogy to 4-allyloxy-3,5-dimethyl-benzoic acid hydrazide starting from 4-benzyloxy-3,5-dimethylbenzoic acid; LC-MS: tR=0.81 min; [M+1]+=271.41.

reactant | 4-allyloxy-3,5-dimethyl-benzoic acid hydrazide | C(C=C)OC1=C(C=C(C(=O)NN)C=C1C)C | C12H16N2O2
reactant | 4-benzyloxy-3,5-dimethylbenzoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1C)C | C16H16O3
product | 4-Benzyloxy-3,5-dimethyl-benzoic acid hydrazide | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)NN)C=C1C)C | C16H18N2O2
